Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-7.47029624893
[C:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7]>>[C:1]#[C:2][C:4]([H:5])[C:6]#[C:7].[H:3],3.97725086129
[O:1]=[C:2]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.02484687816
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7](=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.90218370815
[H:13].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.62653083234
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:9][C:10]([H:11])([H:12])[H:13].[H:8],2.19671100201
[H:8].[O:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-3.63401154821
[H:1][O:2][C:3]#[C:5][C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-2.1881294811400003
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],1.82724810781
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-0.0720884451594
[H:1][C:2]([C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3](=[C:4]([H:5])[H:6])([H:8])[H:9].[H:1][C:2](=[C:7]=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-0.4105006499499999
[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.02728360246
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.32815120237
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][C:13]([H:14])([H:15])[H:16].[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],4.19664296887
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:7].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:8][C:9]([H:10])[H:11],4.43022168712
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],5.45731455252
[H:1][C:2]#[C:3][C:4]#[C:6][O:7][C:8]([H:9])[H:10].[H:5]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],-2.48917247934
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.56285697389
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.82752033699
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.81109512456
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:10]([H:11])=[C:12][H:13],4.56822262083
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])([H:7])[H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C@:9]([C:4][C:5]([H:6])([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14],3.9753635
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],5.2991488784500005
[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-1.7589858339900002
[O:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:4].[O:1][O:2][C:3]#[C:5][H:6],2.47389905166
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[H:10],3.51979025026
[C:1]#[C:2][O:3][C:4]([H:5])[H:6]>>[C:1]=[C:2]1[O:3][C:4]1([H:5])[H:6],-0.96061402343
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14].[H:5],4.25572153519
